### PR TITLE
Update commit_time

### PR DESCRIPTION
**Pull request by MitchellBuckley**
This updates both abstract and haskell spec to ensure `commit_time` corresponds with the C.

### CODE REVIEW

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 1]
```diff
@@ -643,7 +643,8 @@ This module uses the C preprocessor to select a target architecture.
 >     when (numDomains > 1) $ do
```
Comment (mbrcknl) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs:643]: In one of your other PRs on a different function, you included a test for `num_domains` in the abstract, but you haven't done that here. Even though the test is always true in the current specification, we should try to be consistent about this.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 2]
```diff
@@ -643,7 +643,8 @@ This module uses the C preprocessor to select a target architecture.
...
 >       consumed <- getConsumedTime
 >       domainTime <- getDomainTime
->       setDomainTime (domainTime - consumed)
+>       time' <- return $ if (domainTime < consumed) then 0 else (domainTime - consumed)
```
Comment (mbrcknl) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs:646]: I may not have kept up with what's going on here. The C currently doesn't appear to clip this at zero. Is there a C change in the pipeline?

**Review by mbrcknl — APPROVED** [review]

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 1 above)
Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:643]: Excellent point. I'll chase it down.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 2 above)
Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:646]: Mmmm, not yet. I suppose I should do it all at once. Good point.

Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:646]: This is now in seL4 master branch. Thanks for prompting this.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 1 above)
Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:643]: Done.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 3]
```diff
@@ -9459,33 +9495,41 @@ lemma refill_budget_check_round_robin_sc_refills_update_unspecified:
...
   supply if_split[split del]
   apply (simp add: commit_time_def)
   apply (rule hoare_seq_ext[OF _ gets_sp])
-  apply (rule hoare_seq_ext[OF _ gets_sp])
   apply (rule hoare_seq_ext[OF _ get_sched_context_sp])
   apply (rule hoare_seq_ext[where B="\<lambda>_. released_ipc_queues"], wpsimp)
   apply (rule hoare_when_cases, simp)
+  apply (rule hoare_seq_ext[OF _ gets_sp])
+  apply (rename_tac csc sc consumed)
   apply (rule hoare_seq_ext[where B="\<lambda>_. released_ipc_queues"], wpsimp)
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:9512]: I haven't checked in Isabelle, but if you're going to have this `hoare_seq_ext` with `B` just equal to the original postcondition, do you want to instead change the `gets_sp` line before to a regular `hoare_seq_ext_skip`? You should end up in the same spot. Minor though, of course

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 4]
```diff
@@ -9459,33 +9495,41 @@ lemma refill_budget_check_round_robin_sc_refills_update_unspecified:
...
-   apply (clarsimp simp: obj_at_kh_kheap_simps vs_all_heap_simps)
-  apply (simp add: released_ipc_queues_defs)
-  apply (erule allEI)
-  by (fastforce simp: heap_upd_def vs_all_heap_simps)
+  apply (rule hoare_weaken_pre)
+   apply (rule_tac R="cur_sc_more_than_ready and current_time_bounded 0
+                      and (\<lambda>s. consumed = consumed_time s) and cur_sc_active
+                      and (\<lambda>s. valid_refills (cur_sc s) s)"
+          in released_ipc_queues_lift_pre_conj)
+          apply (wpsimp+)[6]
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:9520]: I'm again a little scared of multiples wpsimps in a row. Are you able to instead have the following wpsimp with a +?

**Review by michaelmcinerney — APPROVED** [review]
Cool!

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 5]
```diff
@@ -15506,26 +15551,9 @@ lemma refill_budget_check_round_robin_sc_refill_max_sc_at:
...
-      apply (rule hoare_seq_ext_skip
-             , wpsimp wp: refill_budget_check_round_robin_sc_refill_max_sc_at)
-      apply (wpsimp wp: update_sched_context_wp simp: sc_at_pred_n_def obj_at_def)
-     apply (rule hoare_seq_ext_skip, wpsimp wp: refill_budget_check_sc_refill_max_sc_at)
-     apply (wpsimp wp: update_sched_context_wp simp: sc_at_pred_n_def obj_at_def)
-
-     \<comment> \<open>remaining cases\<close>
-    apply (wpsimp wp: update_sched_context_wp simp: sc_at_pred_n_def obj_at_def)+
-  done
+crunches commit_time
```
Comment (mktnk3) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:15554]: Nice :)

**Review by mktnk3 — APPROVED** [review]
Thanks for chasing this up, Mitch!

**Review by mbrcknl — APPROVED** [review]

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 3 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:9512]: In this case I'm using `hoare_seq_ext` to skip the last command, not the first. So the gets_sp commands are still needed because the precondition is maintained. But I've added `hoare_seq_ext_skip'` to facilitate skipping the last command, and that's a lot neater!

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 4 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:9520]: That did work. I don't love it, but I'll do it that way since it seems to be the style we're going for.
